US05731331
A mixture of 4.8 g (30 mmol) of 4-phenyl-1,2,3,6-tetrahydropyridine, 6.22 g of 1-(4-chlorobutyl)indole and 8.3 g of potassium carbonate in 100 ml of dimethylformamide is heated at 90° C. for 3 hours. Evaporation to dryness is then carried out at reduced pressure, the residue is redissolved in chloroform and washing is carried out repeatedly with water. The organic phase is dried with anhydrous sodium sulfate and evaporation is carried out at reduced pressure, a crude product being obtained which is purified by chromatography on silica gel. 5.7 g (17.3 mmol). of 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]indole are obtained.

reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 30 mmol, 4.8 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | 1-(4-chlorobutyl)indole | 6.22 g | ClCCCCN1C=CC2=CC=CC=C12 | C12H14ClN
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]indole | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C=CC2=CC=CC=C12 | C23H26N2
